US07495103B2
To a refluxing solution of 1-tert-butyl-2-methoxy-5-(trifluoromethyl)-4-nitrobenzene (473 mg, 1.7 mmol) and ammonium formate (473 mg, 7.3 mmol) in EtOH (10 mL) was added 10% Pd—C (200 mg). The mixture was refluxed for 1 h, cooled and filtered through Celite. The solvent was removed by evaporation to give 1-tert-butyl-2-methoxy-5-(trifluoromethyl)-4-aminobenzene (C-18) (403 mg, 95%). 1H NMR (400 MHz, CDCl3) δ 7.19 (s, 1H), 6.14 (s, 1H), 4.02 (bs, 2H), 3.74 (s, 3H), 1.24 (s, 9H).

reactant | 1-tert-butyl-2-methoxy-5-(trifluoromethyl)-4-nitrobenzene | 1.7 mmol, 473 mg | C(C)(C)(C)C1=C(C=C(C(=C1)C(F)(F)F)[N+](=O)[O-])OC | C12H14F3NO3
reactant | ammonium formate | 7.3 mmol, 473 mg | C(=O)[O-].[NH4+]
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | 1-tert-butyl-2-methoxy-5-(trifluoromethyl)-4-aminobenzene | 403 mg, 95% | C(C)(C)(C)C1=C(C=C(C(=C1)C(F)(F)F)N)OC | C12H16F3NO
